US07138414B2
a) 2-chloro-4-(1H-tetrazol-5-yl)phenylamine
The mixture consisting of 1.07 g of 4-amino-3-chlorobenzonitrile, 30 ml of xylene and 1.7 g of trimethyltin azide was stirred at 135° C. for 8 hours. After cooling, 25 ml of methanol were added, the mixture was stirred at room temperature for 30 minutes and the volatile constituents were removed on a rotary evaporator. On stirring, a solid precipitated out of the mixture obtained in this way, and was filtered off with suction and briefly dried under reduced pressure. This solid was dissolved in 1N sodium hydroxide solution and filtered, and the product was precipitated by acidifying with 2N hydrochloric acid, filtered off with suction and dried under reduced pressure.

reactant | 4-amino-3-chlorobenzonitrile | 1.07 g | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
reactant | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | trimethyltin azide | 1.7 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | methanol | 25 ml | CO | CH4O
product | 2-chloro-4-(1H-tetrazol-5-yl)phenylamine | ClC1=C(C=CC(=C1)C1=NN=NN1)N | C7H6ClN5
